US05776656
As in Synthesis Example 1 but using 1.73 grams of 1,2-dicyano-3-nitrobenzene and 2.20 grams of t-butylalcohol, there was obtained 1.40 grams of 1,2-dicyano-3-t-butoxybenzene (yield of 70%). Next, as in Synthesis Example 1 but using 1.40 grams of this benzene compound and 0.58 gram of BBr3, there was obtained 2.9 grams of the end product (yield 60%, mp 184°-186° C.).

reactant | 1,2-dicyano-3-nitrobenzene | 1.73 grams | C(#N)C1=C(C(=CC=C1)[N+](=O)[O-])C#N | C8H3N3O2
reactant | t-butylalcohol | 2.20 grams | C(C)(C)(C)O | C4H10O
product | 1,2-dicyano-3-t-butoxybenzene | 1.40 grams, yield of 70% | C(#N)C1=C(C(=CC=C1)OC(C)(C)C)C#N | C12H12N2O
